US04587236
Analogously to Example 1, 1.0 g of 11β,21-dihydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione is stirred in 10 ml of pyridine with 5 ml of acetic anhydride for one hour at room temperature and then worked up, thus isolating 790 mg of 21-acetoxy-11β-hydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione, mp 138° C.

reactant | 11β,21-dihydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione | 1.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C25H34O6
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 21-acetoxy-11β-hydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione | 790 mg | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(CC)=O)=O | C27H36O7
